US07053114B2
Synthesis of 5-[6-(2-Methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2-methyl-4H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide
6-(2-Methoxyphenyl)-1,3-dihydroindol-2-one (53 mg, 0.22 mmol) was condensed with 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide (65 mg) to give 0.05 g (44%) of the title compound as an orange gum.

reactant | 6-(2-Methoxyphenyl)-1,3-dihydroindol-2-one | 0.22 mmol, 53 mg | COC1=C(C=CC=C1)C1=CC=C2CC(NC2=C1)=O | C15H13NO2
reactant | 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide | 65 mg | CN(CCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)C)C | C17H21N3O2
product | 5-[6-(2-Methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2-methyl-4H-pyrrole-3-carboxylic acid (2-dimethylaminoethyl)amide | 0.05 g, 44% | CN(CCNC(=O)C1=C(N=C(C1)C=C1C(NC2=CC(=CC=C12)C1=C(C=CC=C1)OC)=O)C)C | C26H28N4O3
